US04866062
Preparation of 1-[3-[(4-Fluorophenyl)-phenylmethoxy]-propyl]-4-[2-(diphenylmethoxy)ethyl]piperazine
10.1 g of benzhydrol are refluxed with 6.2 g of potassium tertiary butoxide in 100 ml of anhydrous tertiary butanol under argon gas for 30 minutes, then 19.6 g of 1-[3-[(4-fluorophenyl)-phenylmethoxy]propyl]-4-(2-chloroethyl)piperazine dissolved in 40 ml of anhydrous tertiary butanol are dropwise added. The mixture is boiled for one additional hour, then evaporated to about 40 ml under reduced pressure and after adding water it is extracted with benzene. The organic phase is dried over anhydrous magnesium sulfate and, after evaporating benzene under reduced pressure, the residue is fractionally distilled. The aimed compound boils at 247°-250° C./0.01 Hgmm.

reactant | benzhydrol | 10.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | potassium tertiary butoxide | 6.2 g | CC(C)([O-])C.[K+]
reactant | 1-[3-[(4-fluorophenyl)-phenylmethoxy]propyl]-4-(2-chloroethyl)piperazine | 19.6 g | FC1=CC=C(C=C1)C(OCCCN1CCN(CC1)CCCl)C1=CC=CC=C1 | C22H28ClFN2O
solvent | tertiary butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tertiary butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | 1-[3-[(4-Fluorophenyl)-phenylmethoxy]-propyl]-4-[2-(diphenylmethoxy)ethyl]piperazine | FC1=CC=C(C=C1)C(OCCCN1CCN(CC1)CCOC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H39FN2O2
